US07378525B2
4-(1-Butyryl-piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid phenylamide (F-25)
The title compound was prepared according to the general procedure in Scheme 11, substituting 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid phenylamide for 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide, and butyryl chloride for ethyl chloroformate. 1H NMR (300 MHz, CDCl3) δ 8.87 (s, 1H), 8.67 (m, 1H), 8.36 (m, 2H), 8.25 (d, 1H), 8.08 (m, 2H), 7.87 (d, 1H), 7.78 (d, 1H), 7.70 (m, 1H), 7.63 (m, 1H), 5.50 (d, 1H), 3.95 (m, 1H), 3.55 (m, 1H), 3.26 (m, 1H), 2.88 (m, 1H), 2.48 (m, 1H), 2.13 (m, 2H), 1.66 (m, 2H), 1.48 (m, 3H), 1.19 (m, 1H), 0.88 (t, 3H); LC/MS m/z 480 (M+H)+.

reactant | 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=CC=C(C2=CC=CC=C12)S(NC1CCNCC1)(=O)=O | C22H29N3O3S
reactant | butyryl chloride | C(CCC)(=O)Cl | C4H7ClO
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 4-(1-Butyryl-piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)C1=CC=C(C2=CC=CC=C12)S(NC1CCN(CC1)C(CCC)=O)(=O)=O | C26H29N3O4S
